US07834063B2
4-[{2-[Methyl(pyrimidin-2-yl)amino]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
NaH (60% in oil, 0.003 g, 0.075 mmol) was added to an ice-cold solution of 4-[[2-(pyrimidin-2-ylamino)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile (0.020 g, 0.051 mmol) in DMF (3 mL), under N2. After stirring for 5 min, iodomethane (0.011 g, 0.078 mmol) was added and stirred for 30 min. The mixture was partitioned between Et2O and water. The organic phase was washed with water and brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (5-50% EtOAc/hexanes gradient) and the product crystallized from CH2Cl2/hexanes to give the title compound as a white solid (0.014 g, 68% yield): MS (ES) m/z 404 (M+1).

reactant | NaH | 0.075 mmol, 0.003 g | [H-].[Na+]
reactant | 4-[[2-(pyrimidin-2-ylamino)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.051 mmol, 0.020 g | N1=C(N=CC=C1)NCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C16H13F6N5
reactant | iodomethane | 0.078 mmol, 0.011 g | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[{2-[Methyl(pyrimidin-2-yl)amino]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.014 g, 68% yield | CN(CCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F)C1=NC=CC=N1 | C17H15F6N5
